### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Sphere/Tangent): distances and projections

### PR DESCRIPTION
**Pull request by jsm28**
Add lemmas relating tangency to the `infDist` between the center of the sphere and the affine subspace, and to the orthogonal projection onto that subspace.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Sphere/Tangent.lean [hunk 1]
```diff
@@ -178,6 +188,49 @@ lemma IsTangentAt.isTangent {s : Sphere P} {p : P} {as : AffineSubspace ℝ P}
...
+    rw [mem_sphere'.1 h.mem_sphere]
+  · rw [Metric.infDist_eq_iInf]
+    have : Nonempty as := ⟨⟨p, h.mem_space⟩⟩
+    refine le_ciInf fun x ↦ le_of_sq_le_sq ?_ dist_nonneg
+    rw [dist_comm, h.dist_sq_eq_of_mem x.property, le_add_iff_nonneg_right]
+    exact sq_nonneg _
+
+lemma dist_orthogonalProjection_eq_radius_iff_isTangentAt {s : Sphere P} {as : AffineSubspace ℝ P}
+    [Nonempty as] [as.direction.HasOrthogonalProjection] :
+    dist s.center (orthogonalProjection as s.center) = s.radius ↔
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/Tangent.lean:205]: Is this
```suggestion
    Metric.infDist s.center as = s.radius ↔
```
which is then more consistent with `infDist_eq_radius`

File: Mathlib/Geometry/Euclidean/Sphere/Tangent.lean [hunk 2]
```diff
@@ -178,6 +188,49 @@ lemma IsTangentAt.isTangent {s : Sphere P} {p : P} {as : AffineSubspace ℝ P}
...
+        (vsub_orthogonalProjection_mem_direction s.center hp)
+  · rw [dist_orthogonalProjection_eq_infDist, h.isTangent.infDist_eq_radius]
+
+lemma dist_orthogonalProjection_eq_radius_iff_isTangent {s : Sphere P} {as : AffineSubspace ℝ P}
+    [Nonempty as] [as.direction.HasOrthogonalProjection] :
+    dist s.center (orthogonalProjection as s.center) = s.radius ↔ s.IsTangent as := by
+  refine ⟨fun h ↦ (dist_orthogonalProjection_eq_radius_iff_isTangentAt.1 h).isTangent, fun h ↦ ?_⟩
+  rw [dist_orthogonalProjection_eq_infDist, h.infDist_eq_radius]
+
+lemma isTangent_iff_isTangentAt_orthogonalProjection {s : Sphere P} {as : AffineSubspace ℝ P}
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/Tangent.lean:226]: I think `alias \<IsTangent.isTangentAt, _> := isTangent_iff_isTangentAt_orthogonalProjection` would be sensible here.

File: Mathlib/Geometry/Euclidean/Sphere/Tangent.lean (hunk 1 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/Tangent.lean:205]: The current form of this lemma is deliberate, since it's talking about the projection as the point of tangency.

Comment (eric-wieser) [reply Mathlib/Geometry/Euclidean/Sphere/Tangent.lean:205]: I think what I'm really after here is `infDist_eq_radius` as an `Iff`, which I believe is true but perhaps easier to prove separately.

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/Tangent.lean:205]: I've added that as deduced from other lemmas already present. Note that it requires the orthogonal projection to exist, which `infDist_eq_radius` doesn't.

File: Mathlib/Geometry/Euclidean/Sphere/Tangent.lean (hunk 2 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/Tangent.lean:226]: Added.

File: Mathlib/Geometry/Euclidean/Sphere/Tangent.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Geometry/Euclidean/Sphere/Tangent.lean:205]: Is that an artifact of how you proved it (in which case a TODO would be fine), or a necessary assumption?

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Geometry/Euclidean/Sphere/Tangent.lean (hunk 1 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/Tangent.lean:205]: It's a necessary assumption (when the subspace doesn't have orthogonal projections, the infimum may not be attained, and if it's not attained, there is no point of tangency).
